US09376459B2
(11) [Example 24: copolymerization of ethylene/propylene/methyl acrylate]
Subsequently, the inside of an induction stirring-type stainless steel-made autoclave having an inner volume of 2 liters for use in the polymerization was purged with purified nitrogen, and purified toluene (500 mL), methyl acrylate (37.5 mL) and the entire amount of the catalyst slurry prepared above were introduced into the autoclave in a purified nitrogen atmosphere. Propylene (100 mL) was introduced into the autoclave at 20° C., and the mixed gas prepared above was introduced to raise the pressure to 1.2 MPa. Thereafter, the temperature was raised to 70° C., and the mixed gas was added so that the total pressure could become 2.0 MPa. The mixed gas was appropriately introduced to keep the total pressure during the polymerization. After 10 minutes, ethanol (25 ml) was charged, and the unreacted gas was purged, thereby stopping the polymerization. The recovered toluene suspension was added with ethanol (1,000 mL), and the mixture was left standing still for one night and then filtered. Acetone (500 ml) was added to the precipitate and after stirring at 20° C. for 20 minutes, filtration was performed. This washing was performed two more times. After the washing, the polymer was dried under reduced pressure at 70° C. for 3 hours to obtain 23.2 g of an ethylene-propylene-methyl acrylate copolymer (catalytic activity: 5.3E+05 (g/mol/h)). The melting point by DSC of the obtained copolymer was 107.2° C., Mw by GPC was 80,000, Mw/Mn was 1.7, the methyl acrylate content was 1.0 mol %, and the propylene content was 3.0 mol %. The polymerization results are shown in Table 12.

reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | propylene | C=CC | C3H6
product | ethylene/propylene methyl acrylate | C=C.C=CC.C(C=C)(=O)OC | InChI=1S/C4H6O2.C3H6.C2H4/c1-3-4(5)6-2;1-3-2;1-2/h3H,1H2,2H3;3H,1H2,2H3;1-2H2
